US05716969
In a stream of argon, 49.0 g (126 mmol) of benzyltriphenylphosphonium chloride was suspended in 100 ml of anhydrous tetrahydrofurane, and thereto 86 ml of butyllithium was added dropwise under cooling with ice. After stirring the mixture at room temperature for 1 hour, thereto was added dropwise a solution of 1-benzyl-4-piperidone in anhydrous tetrahydrofurane under cooling with ice and the obtained mixture was refluxed with heating for 15 hours. The reaction solution was filtrated, and diethyl ether and water were added to the filtrate, and the organic phase was taken out. The organic phase was washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the resulting oily matter was subjected to a column chromatography using 1 kg of silica gel and eluted with ethyl acetate-hexane (1:100 to 3:100) to obtain 22.6 g of 1-benzyl-4-benzylidenepiperidine.

reactant | butyllithium | 86 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
catalyst | benzyltriphenylphosphonium chloride | 126 mmol, 49.0 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-benzyl-4-benzylidenepiperidine | 22.6 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=CC=C1 | C19H21N
